US06716878B1
STEP A: [1(S)-(Benzofuran-2-carbonyl)-2,2-dimethylpropyl]-carbamic Acid tert-butyl Ester
A solution of benzofuran (4.24 g, 36 mmol) in dry THF (20 mL) under argon was cooled to −78° C. n-Butyllithium (22.5 mL, 36 mmol, 1.6M in hexanes) was added dropwise such that an internal temperature below −65° C. was maintained. The reaction was allowed to stir at −78° C. for two hours during which time 2-lithiobenzofuran precipitated as a white solid. The suspension of 2-lithiobenzofuran was added dropwise to a cooled (−78° C.) solution of [1(S)-(Methoxy-methyl-carbamoyl)-2,2-dimethylpropyl]-carbamic acid-tert-butyl ester (3.34 g, 12 mmol) in THF (30 mL) via cannula such that an internal temperature of below −65° C. was maintained. The yellow solution was allowed to stir at −70° C. for 30 minutes and −40° C. for a further 3 hours. The reaction was quenched by addition of saturated ammonium chloride solution (200 mL). The aqueous phase was extracted with ethyl acetate (3×150 mL) and the combined organic extracts washed with brine (2×200 mL), dried over magnesium sulphate, filtered and the solvents removed in vacuo to give a crude yellow oil. Purification by column chromatography (SiO2, 10% ethyl acetate in hexanes) gave the title compound as a yellow solid (3.45 g, 87%).

reactant | benzofuran | 36 mmol, 4.24 g | O1C=CC2=C1C=CC=C2 | C8H6O
reactant | n-Butyllithium | 36 mmol, 1.6M, 22.5 mL | C(CCC)[Li]
reactant | 2-lithiobenzofuran | [Li]C=1OC2=C(C1)C=CC=C2
reactant | [1(S)-(Methoxy-methyl-carbamoyl)-2,2-dimethylpropyl]-carbamic acid-tert-butyl ester | 12 mmol, 3.34 g | C(C)(C)(C)OC(N[C@@H](C(C)(C)C)C(N(C)OC)=O)=O | C13H26N2O4
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | [1(S)-(Benzofuran-2-carbonyl)-2,2-dimethylpropyl]-carbamic Acid tert-butyl Ester | 3.45 g, 87% | C(C)(C)(C)OC(N[C@@H](C(C)(C)C)C(=O)C=1OC2=C(C1)C=CC=C2)=O | C19H25NO4
